US06992087B2
Preparation of (1R,2S)-1-({5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3,6-diethylpyrazin-2-yl}amino)-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol but substituting 6-(dimethylamino)-4-methylpyridin-3-ylboronic acid and making non-critical variations provided the title compound as a light yellow amorphous solid. IR (diffuse reflectance) 3448, 2962, 2954, 2933, 1611, 1567, 1520, 1482, 1392, 1376, 1174, 1160, 1046, 741, 737 cm−1; OAMS supporting ions at: ESI+ 418.3; MS (EI) m/z 417 (M+); HRMS (FAB) calcd for C25H31N5O+H1 418.2607, found 418.2611. Anal. Calcd for C25H31N5O: C, 71.91; H, 7.48; N, 16.77. Found: C, 71.59; H, 7.57; N, 16.40.

reactant | (1R,2S)-1-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-2,3-dihydro-1H-inden-2-ol | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C23H23Cl2N3O
reactant | 6-(dimethylamino)-4-methylpyridin-3-ylboronic acid | CN(C1=CC(=C(C=N1)B(O)O)C)C | C8H13BN2O2
product | (1R,2S)-1-({5-[6-(dimethylamino)-4-methylpyridin-3-yl]-3,6-diethylpyrazin-2-yl}amino)-2,3-dihydro-1H-inden-2-ol | CN(C1=CC(=C(C=N1)C=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC)C)C | C25H31N5O
